US05278191
EXAMPLE II 2-[(4-Methoxyphenyl)phenyl]methylaminoacetamide [Compound #2]
A reaction vessel was charged with 800 mg (3.8 mmole) of [(4-methoxyphenyl)phenyl]methylamine dissolved in 30 ml of absolute ethanol together with 340 mg (3.7 mmole) of chloracetamide and 330 mg (4 mmole) of sodium bicarbonate. The suspension was brought to reflux and held at reflux for 3 days. Solvent was evaporated and the residue was dissolved in dichloromethane and water. The organic phase was dried over potasium carbonate and the solvent evaporated under reduced pressure. The oil obtained was solidified by stirring in an ether pentane mixture. The solid was crystallized in cyclohexane with a few drops of ethyl acetate.

reactant | [(4-methoxyphenyl)phenyl]methylamine | 3.8 mmole, 800 mg | COC1=CC=C(C=C1)C1=C(C=CC=C1)CN | C14H15NO
reactant | chloracetamide | 3.7 mmole, 340 mg | ClCC(=O)N | C2H4ClNO
reactant | sodium bicarbonate | 4 mmole, 330 mg | C([O-])(O)=O.[Na+]
reactant | ether pentane | CCOCC.CCCCC
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-[(4-Methoxyphenyl)phenyl]methylaminoacetamide | COC1=CC=C(C=C1)C1=C(C=CC=C1)CNCC(=O)N | C16H18N2O2
